US07989441B2
(S)-2-Oxo-5-phenethylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester (11A)
(S)-5-Oxo-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (14.9 g, 57 mmol) is suspended in dichloromethane (100 mL) and added DMAP (7.1 g, 58 mmol) while cooling on ice (0-5° C.). The suspension immediately clarified. EDCI (11.1 g, 58 mmol) is added resulting in precipitation which quickly clarified again. Phenethylamine (6.8 mL, 54 mmol) is added slowly via syringe. The reaction is complete in one half hour. The dichloromethane layer is washed with aqueous 10% citric acid, water and saturated bicarb, then dried over anhydrous sodium sulfate, filtered and concentrated to a white solid. LCMS characterization ES+367.1 (m+1).

reactant | (S)-5-Oxo-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 57 mmol, 14.9 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
reactant | EDCI | 58 mmol, 11.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | Phenethylamine | 54 mmol, 6.8 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | DMAP | 58 mmol, 7.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-2-Oxo-5-phenethylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CC[C@H]1C(NCCC1=CC=CC=C1)=O)=O | C21H22N2O4
